### PR TITLE
[Merged by Bors] - Feat (GroupTheory/GroupAction/Blocks) : blocks for a mul action

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This PR defines the notion of a block for a mul action and establishes various basic lemmas,
as well as alternative versions of the definition.

Blocks are used to define primitive actions, which appear as an hypothesis of the Iwasawa criterion for simplicity.

---

- [x] depends on: #12023: generalization of pointwise lemmas for smul of sets.
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 1]
```diff
@@ -679,3 +680,50 @@ theorem Equiv.swap_mem_stabilizer {α : Type*} [DecidableEq α] {S : Set α} {a
...
+/-- To prove inclusion of a *subgroup* in a stabilizer, it is enough to prove inclusions.-/
+theorem le_stabilizer_iff_smul_le (s : Set α) (H : Subgroup G) :
+    H ≤ stabilizer G s ↔ ∀ g ∈ H, g • s ⊆ s := by
+  constructor
+  · intro hyp g hg
+    apply Eq.subset
+    rw [← mem_stabilizer_iff]
+    exact hyp hg
+  intro hyp
+  intro g hg
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:698]:
```suggestion
  intro hyp g hg
```

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 2]
```diff
@@ -679,3 +680,50 @@ theorem Equiv.swap_mem_stabilizer {α : Type*} [DecidableEq α] {S : Set α} {a
...
+  rw [mem_stabilizer_iff]
+  apply subset_antisymm
+  exact hyp g hg
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:701]: Looks like there are multiple goals at this point...

**Review by jcommelin — COMMENTED** [review]
More to follow... (I'm interrupted.)

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 3]
```diff
@@ -421,3 +422,35 @@ theorem smul_mem_iff (s0 : s ≠ 0) : s • x ∈ p ↔ x ∈ p :=
...
+namespace SubMulAction
+
+/- The inclusion of a SubMulaction, as an equivariant map -/
+variable {M α : Type*} [Monoid M] [MulAction M α]
+
+
+/-- The inclusion of a SubMulAction into the ambient set, as an equivariant map -/
+def inclusion (s : SubMulAction M α) : s →[M] α where
+-- The inclusion map of the inclusion of a SubMulAction
+  toFun := fun x => x.val
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:435]:
```suggestion
  toFun := Subtype.val
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 4]
```diff
@@ -421,3 +422,35 @@ theorem smul_mem_iff (s0 : s ≠ 0) : s • x ∈ p ↔ x ∈ p :=
...
+-- The commutation property
+  map_smul' _ _ := rfl
+
+theorem inclusion.toFun_eq_coe (s : SubMulAction M α) :
+    s.inclusion.toFun = fun x => x.val := rfl
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:440]:
```suggestion
    s.inclusion.toFun = Subtype.val := rfl
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 5]
```diff
@@ -421,3 +422,35 @@ theorem smul_mem_iff (s0 : s ≠ 0) : s • x ∈ p ↔ x ∈ p :=
...
+
+lemma image_inclusion (s : SubMulAction M α) :
+    Set.range s.inclusion = s.carrier  := by
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:443]:
```suggestion
    Set.range s.inclusion = s.carrier := by
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 6]
```diff
@@ -421,3 +422,35 @@ theorem smul_mem_iff (s0 : s ≠ 0) : s • x ∈ p ↔ x ∈ p :=
...
+  ext a
+  simp only [Set.mem_range, Subtype.exists, mem_carrier, SetLike.mem_coe]
+  constructor
+  · rintro ⟨a, h, rfl⟩; exact h
+  · exact fun h ↦ ⟨a, h, rfl⟩
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:448]: Can you rewrite with the lemma above, and then use a lemma about the range of `Subtype.val`?

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 7]
```diff
@@ -421,3 +422,35 @@ theorem smul_mem_iff (s0 : s ≠ 0) : s • x ∈ p ↔ x ∈ p :=
...
+
+lemma inclusion_injective (s : SubMulAction M α) :
+    Function.Injective s.inclusion := by
+  rintro ⟨a, ha⟩ ⟨b, hb⟩ h
+  simp only [Subtype.mk.injEq]
+  exact h
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:454]:
```suggestion
    Function.Injective s.inclusion := Subtype.val_injective
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 8]
```diff
@@ -0,0 +1,457 @@
+/-
+Copyright (c) 2024 Antoine Chambert-Loir. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Antoine Chambert-Loir
+
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:5]:
```suggestion
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 9]
```diff
@@ -0,0 +1,457 @@
...
+/-! # Blocks
+
+Given `SMul G X`, an action of a type `G` on a type `X`, we define
+
+- the predicate `IsBlock G B` states that `B : Set X` is a block,
+which means that the sets `g • B`, for `g ∈ G` form a partition of `X`.
+
+- a bunch of lemmas that give examples of “trivial” blocks : ⊥, ⊤, singletons,
+and non trivial blocks: orbit of the group, orbit of a normal subgroup…
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:22]:
```suggestion
- the predicate `IsBlock G B` states that `B : Set X` is a block,
  which means that the sets `g • B`, for `g ∈ G` form a partition of `X`.

- a bunch of lemmas that give examples of “trivial” blocks : ⊥, ⊤, singletons,
  and non trivial blocks: orbit of the group, orbit of a normal subgroup…
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 10]
```diff
@@ -0,0 +1,457 @@
...
+
+open scoped BigOperators Pointwise
+
+namespace MulAction
+
+section orbits
+
+variable {G : Type*} [Group G] {X : Type*} [MulAction G X]
+
+theorem orbit.equal_or_disjoint (a b : X) :
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:40]:
```suggestion
theorem orbit.eq_or_disjoint (a b : X) :
```
You could consider rephrasing this as `Pairwise Disjoint on (orbit G)`.

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/SubMulAction.lean:448]: Yes, but I used another lemma (that says ⇑s.inclusion = Subtype.val )

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 10 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:40]: Unless I'm mistaken with what Pairwise does, I am not sure that works: there are distinct points having the same orbit.

Comment (jcommelin) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:39]: Probably I am mistaken with what `Pairwise .. on` does.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:39]: We want to say that the orbits are pairwise disjoint, but `Pairwise (Disjoint on (orbit G : X → Set X))` requires to prove that for `x y : X` such that `x ≠ y`, the sets `orbit G x` and `orbit G y` are disjoint.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:39]: Do you prefer this:
```
example : (Set.range fun x : X => orbit G x).PairwiseDisjoint id := by
  rintro ox ⟨x, rfl⟩ oy ⟨y, rfl⟩ 
  unfold Disjoint
  rw [not_imp_comm]
  simp
  intro s hsy hsx
  erw [Classical.not_forall_not]
  rintro ⟨z, hz⟩
  rw [← orbit_eq_iff.mpr (hsx hz), ← orbit_eq_iff.mpr (hsy hz)]
```

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:39]: Or even that:
```
example : (Set.range fun x : X => orbit G x).PairwiseDisjoint id := by
  by_contra h 
  rcases Set.exists_ne_mem_inter_of_not_pairwiseDisjoint h with ⟨s, ⟨x, rfl⟩, t, ⟨y, rfl⟩, hst, z, ⟨hzx, hzy⟩⟩
  apply hst
  simp only [id_eq] at hzx hzy 
  simp only [← orbit_eq_iff.mpr hzx, ← orbit_eq_iff.mpr hzy]
```

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:47]: I added that one, and another proof for the fact that orbits of normal subgroups are blocks.
Do you feel they are more idomatic?

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 11]
```diff
@@ -0,0 +1,490 @@
...
+import Mathlib.GroupTheory.GroupAction.Pointwise
+import Mathlib.GroupTheory.GroupAction.SubMulAction
+import Mathlib.GroupTheory.Subgroup.Actions
+
+/-! # Blocks
+
+Given `SMul G X`, an action of a type `G` on a type `X`, we define
+
+- the predicate `IsBlock G B` states that `B : Set X` is a block,
+  which means that the sets `g • B`, for `g ∈ G` form a partition of `X`.
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:18]: To me, `partition` implies that the translates cover all of `X`. But you don't require that, do you?

**Comment by jcommelin** [comment]
Please see

>  PR agains ACL/IwBlocks: mini refactors #12262 

for some suggestions and improvements.

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:18]: No, the docstring was incorrect

**Comment by AntoineChambert-Loir** [comment]
@jcommelin I merged your branch, and moved the three new lemmas (I found earlier and more natural places than what hinted by find_home).

**Comment by jcommelin** [comment]
@AntoineChambert-Loir here is another PR:

>  PR into ACL/IwBlocks -- some more tweaks #12537

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 12]
```diff
@@ -0,0 +1,407 @@
...
+    exact (MulAction.orbit_nonempty a).ne_empty ha
+
+end orbits
+
+section SMul
+
+variable (G : Type*) {X : Type*} [SMul G X]
+
+-- Change terminology : is_fully_invariant ?
+/-- A fixed block is a fully invariant subset -/
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:67]: Could you please expand the docstrings on `def`s in this file, so that they mention the "context" (multiplicative action of `G` on `X`, etc...).

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:67]: I hope this will be OK.

File: Mathlib/Data/Set/Pairwise/Basic.lean [hunk 13]
```diff
@@ -334,6 +334,21 @@ theorem PairwiseDisjoint.elim (hs : s.PairwiseDisjoint f) {i j : ι} (hi : i ∈
   hs.eq hi hj h
 #align set.pairwise_disjoint.elim Set.PairwiseDisjoint.elim
 
+lemma PairwiseDisjoint.eq_or_disjoint
+  -- {α : Type*} {s : Set (Set α)}
```
Comment (jcommelin) [inline Mathlib/Data/Set/Pairwise/Basic.lean:338]:
```suggestion
```

File: Mathlib/Data/Set/Pointwise/SMul.lean [hunk 14]
```diff
@@ -1035,6 +1035,22 @@ lemma inv_op_smul_set_distrib (a : α) (s : Set α) : (op a • s)⁻¹ = a⁻¹
 lemma smul_set_disjoint_iff : Disjoint (a • s) (a • t) ↔ Disjoint s t := by
   simp [disjoint_iff, ← smul_set_inter]
 
+example (a : α) (s : Set β) : a • s = (fun b ↦ a • b) '' s := by
+  rw [@image_smul]
```
Comment (jcommelin) [inline Mathlib/Data/Set/Pointwise/SMul.lean:1039]: Mathlib typically doesn't have many examples. Are you proposing to keep this in? Or was it a leftover from testing something?

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Set/Pointwise/SMul.lean:1039]: No, I'm sorry, it's just a leftover. Let me delete it (and check there are no similar leftovers…).

**Comment by jcommelin** [comment]
This now looks good to me. Please merge it after CI is happy.

bors d+
